US08138340B2
2-(Thiazol-2-yloxy)ethanol
para-Toluenesulfonic acid (11.2 g, 58.0 mmol) was added to a sol. of 2-[2-(tert-butyldimethylsilanyloxy)ethoxy]thiazole (15.0 g, 58.0 mmol) in MeOH (300 mL) at 0° C. The mixture was stirred for 2 h at 0° C. Aq. sat. NaHCO3 was added until a pH of 6-7 was reached. The solvents were partially removed under reduced pressure, and the residue was diluted with EtOAc. The mixture was washed with aq. sat. NaHCO3 (1×), and the aq. phase was extracted back with EtOAc (1×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 1:1) yielded the title compound (5.43 g, 65%). LC-MS: tR=0.48 min, ES+: 146.09.

reactant | para-Toluenesulfonic acid | 58.0 mmol, 11.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-[2-(tert-butyldimethylsilanyloxy)ethoxy]thiazole | 58.0 mmol, 15.0 g | [Si](C)(C)(C(C)(C)C)OCCOC=1SC=CN1 | C11H21NO2SSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 300 mL | CO | CH4O
product | 2-(Thiazol-2-yloxy)ethanol | 5.43 g, 65% | S1C(=NC=C1)OCCO | C5H7NO2S
